US05602253
(iii) (3RS)-1-(N-benzyloxycarbonylamidino)-3-mesyloxymethyl pyrrolidine
0.7 g (2.53 mmole) (3RS)-1-(N-benzyloxycarbonylamidino)-3-hydroxymethyl pyrrolidine and 0.70 ml (5.05 mmole) triethylamine was dissolved in 15 ml diethyl ether/CH2Cl2 1/1 and the mixture was cooled to 0° C. 0.25 ml (3.29 mole) methanesulphonyl chloride in 3 ml diethyl ether was slowly added and the reaction mixture was stirred at 0° C. for three hours. The solvent was evaporated and the residue was dissolved in ethyl acetate and extracted with a 0.3M KHSO4 -solution. The water layer was washed once with CH2Cl2. The water layer was made neutral with 10M NaOH-solution and extracted twice with CH2Cl2. The combined organic layer was dried (Na2SO4), filtered and evaporated to yield 0.450 g (50%) of the title compound.

reactant | (3RS)-1-(N-benzyloxycarbonylamidino)-3-hydroxymethyl pyrrolidine | 2.53 mmole, 0.7 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)CO | C14H19N3O3
reactant | triethylamine | 5.05 mmole, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 3.29 mole, 0.25 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate heptane | 15 ml | C(C)(=O)OCC.CCCCCCC
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | (3RS)-1-(N-benzyloxycarbonylamidino)-3-mesyloxymethyl pyrrolidine | 0.450 g, 50% | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CC(CC1)COS(=O)(=O)C | C15H21N3O5S
